US08633322B2
1-Bromo-3-fluoro-benzene (1.0 mL, 7.8 mmol), 2-pent-4-ynyl-isoindole-1,3-dione (1.8 g, 8.6 mmol), Pd(PPh3)2Cl2 (191 mg, 0.27 mmol), CuI (118 mg, 0.62 mmol), and triethylamine (4.4 mL, 31.3 mmol) were taken up into DMF (10 mL) and stirred at room temperature for four hours. The reaction was then quenched with saturated NaHCO3 and the resulting mixture extracted with EtOAc and washed with brine, then dried over sodium sulfate and the solvent removed in vacuo. The resulting residue was purified on normal phase chromatography (Heptane/EtOAc) to yield 2-(5-(3-bromophenyl)pent-4-ynyl)isoindoline-1,3-dione. MH+ 368, 370

reactant | 1-Bromo-3-fluoro-benzene | 7.8 mmol, 1.0 mL | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | 2-pent-4-ynyl-isoindole-1,3-dione | 8.6 mmol, 1.8 g | C(CCC#C)N1C(C2=CC=CC=C2C1=O)=O | C13H11NO2
reactant | triethylamine | 31.3 mmol, 4.4 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.27 mmol, 191 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.62 mmol, 118 mg | [Cu]I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(5-(3-bromophenyl)pent-4-ynyl)isoindoline-1,3-dione | BrC=1C=C(C=CC1)C#CCCCN1C(C2=CC=CC=C2C1=O)=O | C19H14BrNO2
